US05380742
11.3 1-Ethoxycarbonyl-5,6-dihydro-4H-thieno- [3,4-c]pyrrole hydrochloride.
A stream of hydrochloric acid is passed into a suspension of 3.3 g (13.2 mmol) of 1-carboxy-5,6-dihydro-4H-thieno[3,4-c]pyrrole hydrobromide in 75 ml of ethanol, heated at reflux for 4 h. The solvent is then evaporated and the residue triturated with twice 20 ml of diethyl ether. 2.46 g of a beige solid are obtained. Yield 80%. Melting point: 163° C. (with decomposition).

reactant | hydrochloric acid | Cl | ClH
reactant | 1-carboxy-5,6-dihydro-4H-thieno[3,4-c]pyrrole hydrobromide | 13.2 mmol, 3.3 g | Br.C(=O)(O)C=1SC=C2C1CNC2
reactant | ethanol | 75 ml | C(C)O | C2H6O
product | 1-Ethoxycarbonyl-5,6-dihydro-4H-thieno- [3,4-c]pyrrole hydrochloride | 2.46 g, Yield 80% | Cl.C(C)OC(=O)C=1SC=C2C1CNC2 | InChI=1S/C9H11NO2S.ClH/c1-2-12-9(11)8-7-4-10-3-6(7)5-13-8;/h5,10H,2-4H2,1H3;1H
